US06911464B2
To a solution of (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide (350 mg, 0.82 mmol) in methylene chloride (3 mL) was added a solution of acetyl formate (84 mg) in methylene chloride (1 mL) at 0° C. After 1 h, the mixture was extracted with ethyl acetate (25 mL) and water (25 mL). The organic layer was washed with brine (20 mL) and dried over MgSO4. The solvent was removed in vacuo. The residue was purified with prep HPLC to give (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide as a white solid (90 mg, 24% yield): mp: 96-98° C.; 1H NMR (CDCl3) δ 1.46 (t, J=7 Hz, 3H, CH3), 2.26 (s, 3H, CH3), 2.81-2.83 (m, 2H, CH2), 3.56 (t, J=6 Hz, 2H, CH2), 3.85 (s, 3H, CH3), 4.10 (q, J=7 Hz, 2H, CH2), 5.25 (t, J=8 Hz, 1H, NCH), 6.82 (d, J=8 Hz, 1H, Ar), 7.06-7.09 (m, 2H, Ar), 7.45 (d, J=8 Hz, 1H, Ar), 7.64 (t, J=8 Hz, 1H, Ar), 7.72 (s, 1H, CH), 8.75 (d, J=8 Hz, 1H, Ar), 9.49 (s, 1H, NH); 13C NMR (CDCl3) δ 14.73, 24.95, 28.35, 46.61, 51.92, 55.93, 64.46, 111.37, 112.79, 115.21, 118.05, 120.63, 124.90, 130.33, 131.09, 136.02, 137.47, 148.48, 149.40, 155.73, 167.72, 169.27, 170.07; Anal Calcd for C23H25N3O7+0.3 H2O: C, 59.95; H, 5.60; N, 9.12; H2O, 1.17. Found: C, 59.94; H, 5.59; N, 8.98; H2O, 1.22.

reactant | (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | 0.82 mmol, 350 mg | C(C)OC=1C=C(C=CC1OC)[C@@H](CCNO)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C22H25N3O6
reactant | acetyl formate | 84 mg | C(=O)OC(C)=O | C3H4O3
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | 90 mg, 24% yield | C(C)OC=1C=C(C=CC1OC)[C@@H](CCN(O)C=O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C23H25N3O7
